US07138414B2
d) 1-(2-chloro-4,5-difluorobenzoyl)-3-[2-chloro-4-(1H-tetrazol-5-yl)phenyl)urea
The solution of equivalent amounts of 2-chloro-4,5-difluorobenzoyl isocyanate was added dropwise to the solution of 100 mg of 2-chloro-4-(1H-tetrazol-5-yl)phenylamine in 3 ml of acetonitrile and the mixture was stirred at 40° C. for 60 minutes. The solid formed was filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
reactant | 2-chloro-4-(1H-tetrazol-5-yl)phenylamine | 100 mg | ClC1=C(C=CC(=C1)C1=NN=NN1)N | C7H6ClN5
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-(2-chloro-4,5-difluorobenzoyl)-3-[2-chloro-4-(1H-tetrazol-5-yl)phenyl)urea | ClC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)C2=NN=NN2)Cl)C=C(C(=C1)F)F | C15H8Cl2F2N6O2
